US05344843
A mixture of 4-[[2-[4-(aminosulfonyl)phenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.3 g) and 0.5N sodium hydroxide (6 mL) was warmed on the steam bath for 5 minutes and allowed to cool over 10 minutes. The clear solution was acidified with 1N hydrochloric acid (4 mL) and the resulting mixture chilled, filtered, and the solids washed with water. The solids were dried over phosphorus pentoxide at 70° C. and 0.1 mm to give 0.27 g of colorless 4-[[2-[4- (aminosulfonyl)phenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid as a 4:1 molar hydrate, mp 178°-179° C. with decomposition.

reactant | 4-[[2-[4-(aminosulfonyl)phenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.3 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)S(=O)(=O)N)=O)=O | C17H17NO7S
reactant | sodium hydroxide | 0.5N, 6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 4 mL | Cl | ClH
product | 4-[[2-[4- (aminosulfonyl)phenoxy]ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.27 g | NS(=O)(=O)C1=CC=C(OCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=C1 | C16H15NO7S
